US05939451
2.88 g (0.0075 mol) of N-[4-(6-chloro-2-ethylamino-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide were dissolved in 76 ml of 1N NaOH and boiled at reflux for 3 hours. The mixture was extracted with ethyl acetate, the aqueous phase was saturated with sodium chloride and the residual ethyl acetate was distilled on a rotary evaporator. Then, the aqueous phase was made acid with 3N HCl and the precipitate which separated was filtered off under suction. After drying there were obtained 2.2 g (90%) of 4-amino-N-(6-chloro-2-ethylamino-pyrimidin-4-yl)-benzenesulfonamide as white crystals; m.p.: 172-173° C.

reactant | N-[4-(6-chloro-2-ethylamino-pyrimidin-4-ylsulfamoyl)-phenyl]-acetamide | 0.0075 mol, 2.88 g | ClC1=CC(=NC(=N1)NCC)NS(=O)(=O)C1=CC=C(C=C1)NC(C)=O | C14H16ClN5O3S
solvent | NaOH | 1N, 76 ml | [OH-].[Na+]
product | 4-amino-N-(6-chloro-2-ethylamino-pyrimidin-4-yl)-benzenesulfonamide | 2.2 g, 90% | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)NCC | C12H14ClN5O2S
